US04544400
Following the procedure of Example 4, N-methylcarbonyl 2-nitro-5-fluoroaniline (1.0 g, 5.1 mmol), phenol (0.47 g, 5.1 mmol) and potassium carbonate (1.4 g, 10.2 mmol) are reacted together to give N-methylcarbonyl 2-nitro-5-phenoxyaniline, 1.2 g of which is then reacted with 20% hydrochloric acid (50 ml) to give 2-nitro-5-phenoxyaniline. The 2-nitro-5-phenoxyaniline (0.9 g, 3.9 mmol) is reacted with potassium hydroxide (0.2 g, 3.9 mmol) and sodium hypochlorite (11 ml of 5.2% solution, 0.6 g, 7.8 mmol) to yield 5-phenoxybenzo-2,1,3-oxadiazole N-oxide, m.p. 76°-77°.

reactant | 2-nitro-5-phenoxyaniline | 3.9 mmol, 0.9 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)OC1=CC=CC=C1 | C12H10N2O3
reactant | potassium hydroxide | 3.9 mmol, 0.2 g | [OH-].[K+]
reactant | sodium hypochlorite | 7.8 mmol, 11 ml, 0.6 g | Cl[O-].[Na+]
product | 5-phenoxybenzo-2,1,3-oxadiazole N-oxide | O(C1=CC=CC=C1)C1=CC=2C(=[N+](ON2)[O-])C=C1 | C12H8N2O3
